US03940394
[4-Chloro-6-(2,3-xylidino)-2-pyrimidinylthio]acetamide
5.0 g of [4-chloro-6-(2,3-xylidino)-2-pyrimidinylthio] acetic acid, ethyl ester was added to 40 ml of concentrated ammonium hydroxide. Ethanol (40 ml) was then added and the reaction mixture was boiled to give a clear solution. This solution then stood at room temperature for three days. The precipitate thus formed was collected and recrystallized from ethanol giving 3.0 g of product, mp. 188°-191°C.

reactant | [4-chloro-6-(2,3-xylidino)-2-pyrimidinylthio] acetic acid, ethyl ester | 5.0 g | ClC1=NC(=NC(=C1)NC1=C(C(=CC=C1)C)C)SCC(=O)OCC | C16H18ClN3O2S
reactant | ammonium hydroxide | 40 ml | [OH-].[NH4+]
solvent | Ethanol | 40 ml | C(C)O | C2H6O
product | [4-Chloro-6-(2,3-xylidino)-2-pyrimidinylthio]acetamide | ClC1=NC(=NC(=C1)NC1=C(C(=CC=C1)C)C)SCC(=O)N | C14H15ClN4OS
